US08895580B2
Step 7: Preparation of 2-(2-fluorophenyl)-5-[(2-oxo-1-phenylpiperidin-4-yl)methyl]-2,5-dihydro-3H-pyrazolo[4,3-c]quinolin-3-one
(4Z)-4-[(Dimethylamino)methylidene]-2,5-bis(2-fluorophenyl)-2,4-dihydro-3H-pyrazol-3-one (0.12 g, 0.37 mmol), 4-(aminomethyl)-1-phenylpiperidin-2-one (76 mg, 0.37 mmol, 1 equiv) and potassium carbonate (0.15 g, 1.1 mmol, 3 equiv) were combined in degassed dimethylsulfoxide (5 mL) and placed into a preheated oil bath at 100° C. open to the air for 1 hour. Additional 4-(aminomethyl)-1-phenylpiperidin-2-one (0.15 g, 0.74 mmol, 2 equiv) and potassium carbonate (0.15 g, 1.1 mmol, 3 equiv) were added and the mixture was heated at 100° C. for an additional 2 hours. The mixture was cooled to ambient temperature, poured into sodium bicarbonate (40 mL, aqueous saturated) and extracted with ethyl acetate (2×75 mL). The combined organic extracts were dried with sodium sulfate, filtered and concentrated in vacuo. The residue was purified by silica gel gradient chromatography (100:0 to 0:100 hexanes:ethyl acetate containing 5% methanol; then eluted with chloroform containing 15% methanol), providing the titled compound: 1H-NMR (400 MHz, d6-DMSO) δ 8.93 (1H, s), 8.23 (1H, dd, 7.8, 1.4 Hz), 8.06 (1H, d, J=8.7 Hz), 7.79-7.75 (1H, m), 7.63-7.57 (2H, m), 7.47-7.30 (5H, m), 7.27-7.21 (3H, m), 4.49 (2H, d, J=7.1 Hz), 3.66-3.53 (2H, m), 2.68-2.58 (1H, m), 2.47-2.30 (2H, m), 1.89 (1H, br d, J=12.5 Hz), 1.85-1.73 (1H, m) ppm; low resolution mass spectrometry (ES+) m/z 466.97 [(M+H)+; calculated for C28H24FN4O2: 467.18].

reactant | (4Z)-4-[(Dimethylamino)methylidene]-2,5-bis(2-fluorophenyl)-2,4-dihydro-3H-pyrazol-3-one | 0.37 mmol, 0.12 g | CN(C)\C=C\1/C(N(N=C1C1=C(C=CC=C1)F)C1=C(C=CC=C1)F)=O | C18H15F2N3O
reactant | 4-(aminomethyl)-1-phenylpiperidin-2-one | 0.37 mmol, 76 mg, 1 equiv | NCC1CC(N(CC1)C1=CC=CC=C1)=O | C12H16N2O
reactant | potassium carbonate | 1.1 mmol, 0.15 g, 3 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(aminomethyl)-1-phenylpiperidin-2-one | 0.74 mmol, 0.15 g, 2 equiv | NCC1CC(N(CC1)C1=CC=CC=C1)=O | C12H16N2O
reactant | potassium carbonate | 1.1 mmol, 0.15 g, 3 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | sodium bicarbonate | 40 mL | C([O-])(O)=O.[Na+]
solvent | dimethylsulfoxide | 5 mL | CS(=O)C | C2H6OS
product | 2-(2-fluorophenyl)-5-[(2-oxo-1-phenylpiperidin-4-yl)methyl]-2,5-dihydro-3H-pyrazolo[4,3-c]quinolin-3-one | FC1=C(C=CC=C1)N1N=C2C(=CN(C=3C=CC=CC23)CC2CC(N(CC2)C2=CC=CC=C2)=O)C1=O | C28H23FN4O2
